US03992441
2-Chloro-5-(4-chloromethylpiperidinosulfonyl)benzoic Acid
2-Chloro-5-(4-hydroxymethylpiperidinosulfonyl)benzoic acid (5.0 g.) is refluxed oernight with 50 ml. of thionyl chloride. Afer evaporation to dryness, the residue is dissolved in 70 ml. of acetone, 30 ml. of water added and the mixture is allowed to stand at room temperature for a half hour. The solution is then filtered and concentrated to half volume. On the addition of 20 ml. of water a precipitated oil is obtained which crystallizes on stirring. Recrystallization from acetone-benzene yields the product, m.p. 175°-177° C.

reactant | 2-Chloro-5-(4-hydroxymethylpiperidinosulfonyl)benzoic acid | 5.0 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCC(CC1)CO | C13H16ClNO5S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-Chloro-5-(4-chloromethylpiperidinosulfonyl)benzoic Acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCC(CC1)CCl | C13H15Cl2NO4S
